US07723330B2
Step C: Preparation of 3-(4-chlorobenzyl)-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one:
To a round bottom flask was added 3-(4-chlorobenzyl)-5-bromopyrimidin-4(3H)-one (0.388 g, 1.30 mmol), 4-benzyloxy-3-fluorophenylboronic acid (0.382 g, 1.55 mmol), Pd(PPh3)4 (0.0748 g, 0.0648 mmol), LiCl (0.275 g, 6.48 mmol), dioxane (10 mL) and 2 M aqueous sodium carbonate solution (5 mL). The reaction mixture was stirred at 10° C. for 1 hour, then quenched the reaction by pouring the mixture into water and diluting with ethyl acetate. The organic layer washed with brine, dried with Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (Biotage 40S) to afford the title compound as white solid (0.17 g, 31.2% yield). LRMS (APCI pos) m/e 421.0 (M+1). 1H NMR (400 MHz, CDCl3): δ 8.15 (s, 1H), 8.02 (s, 1H), 7.49-7.54 (m, 1H), 7.42-7.46 (m, 2H), 7.36-7.41 (m, 3H), 7.32-7.35 (m, 5H), 5.18 (s, 2H), 5.12 (s, 2H).

reactant | 3-(4-chlorobenzyl)-5-bromopyrimidin-4(3H)-one | 1.30 mmol, 0.388 g | ClC1=CC=C(CN2C=NC=C(C2=O)Br)C=C1 | C11H8BrClN2O
reactant | 4-benzyloxy-3-fluorophenylboronic acid | 1.55 mmol, 0.382 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | LiCl | 6.48 mmol, 0.275 g | [Li+].[Cl-]
reactant | sodium carbonate | 2 M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.0648 mmol, 0.0748 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(4-chlorobenzyl)-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one | 0.17 g, 31.2% yield | ClC1=CC=C(CN2C=NC=C(C2=O)C2=CC(=C(C=C2)OCC2=CC=CC=C2)F)C=C1 | C24H18ClFN2O2
